***************************
** {{device}}
***************************

** library calling



** Circuit Description **
* power supply

Vgs G_tn 0 dc 3.3
Vbs S_tn 0 dc 0



*l_diff_min = 0.24
* ad = int((nf+1)/2) * width/nf * 0.24       = 24u                         
* pd = (int((nf+1)/2) * width/nf + 0.24)*2   = 200.48u                 

* circuit
xmn1 0 G_tn 0 S_tn {{device}} W = {{width}}u L = {{length}}u nf={{nf}} ad={{AD}}u pd={{PD}}u as={{AS}}u ps={{PS}}u TEMP=25


*****************
** Analysis
*****************
.TRAN 0 0.0001ms
.STEP Vgs {{vgs}} 
.STEP Vbs {{vbs}}
.STEP TEMP 25 -60 200
.print tran FORMAT=CSV file=mos_cv_regr/{{device}}/{{device}}_netlists_Cgc/simulated_W{{width}}_L{{length}}.csv {-1.0e15*N(xmn1:m0:cgs) - 1.0e15*N(xmn1:m0:cgd)} v(S_tn) v(G_tn) 
.include "../../../design.spice"
.lib "../../../sm141064.spice" typical
.end

